US07030116B2
A solution of (R)-2-Cyclohexylmethyl-N-{(S)-1-[hydroxy-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-methyl]-propyl}-4-morpholin-4-yl-4-oxo-butyramide (324 mg, 0.661 mmol) in methylene chloride (10 ml) was treated with Dess Martin periodinane (308 mg, 0.726 mmol) and stirred at room temperature for 90 minutes. The reaction mixture was washed with an aqueous solution of Na2S2O3 (0.26M), saturated aqueous bicarbonate solution and water, dried over Na2SO4 and the solvent evaporated under reduced pressure. The crude was purified by flash chromatography eluting with a mixture of ethyl acetate and heptane to give (R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-N-[(S)-1-(5-trifluoromethyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-butyramide as an off white solid (10 mg).

reactant | (R)-2-Cyclohexylmethyl-N-{(S)-1-[hydroxy-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-methyl]-propyl}-4-morpholin-4-yl-4-oxo-butyramide | 0.661 mmol, 324 mg | C1(CCCCC1)C[C@@H](C(=O)N[C@@H](CC)C(C1=NOC(=N1)C(F)(F)F)O)CC(=O)N1CCOCC1 | C22H33F3N4O5
reactant | Dess Martin periodinane | 0.726 mmol, 308 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-2-Cyclohexylmethyl-4-morpholin-4-yl-4-oxo-N-[(S)-1-(5-trifluoromethyl-1,2,4-oxadiazole-3-carbonyl)-propyl]-butyramide | C1(CCCCC1)C[C@@H](C(=O)N[C@@H](CC)C(=O)C1=NOC(=N1)C(F)(F)F)CC(=O)N1CCOCC1 | C22H31F3N4O5
